*SRC=BT134-800;BT134-800;TRIACS;PHILIPS;800V 4A
*SYM=TRIAC
.SUBCKT BT134-800  1  2  3
*     TERMINALS: MT2 G MT1
QN1  5 4 3  NOUT OFF
QN2 11 6 7  NOUT OFF
QP1 6 11 3  POUT OFF
QP2  4 5 7  POUT OFF
DF  4  5  DZ OFF
DR  6 11  DZ OFF
RF  4 6  80MEG
RT2 1 7  0.141
RH  7 6  35
RGP 8 3  15.5
RG  2 8  31.7
RS  8 4  34.5
DN  9 2  DIN OFF
RN  9 3  457
GNN  6 7 9 3 16.6M
GNP  4 5 9 3 3.91M
DP 2 10  DIP OFF
RP 10 3  457
GP  7 6 10 3 15.3M
.MODEL DIN  D (IS=115F)
.MODEL DIP  D (IS=115F N=1.5)
.MODEL DZ   D (IS=115F N=1.5 IBV=10U BV=800)
.MODEL POUT PNP (IS=115F BF=5 CJE=508P TF=43.4U)
.MODEL NOUT NPN (IS=115F BF=20 CJE=508P CJC=102P TF=2.89U)
.ENDS
*****